US05137905
Part A. (R)-t-Butyl 2-ethynyl-1-pyrrolidinecarboxylate
Butyl lithium (48 mL, 0.08 mol) was added at -78° C. to a stirred solution of (R)-t-butyl 2-(2,2-dibromoethenyl)-1-pyrrolidinecarboxylate (14.2 g, 0.04 mol) in dry THF (300 mL). The color turned to dark yellow. After 15 min. methanol (10 mL) and ethyl acetate (10 mL) were added and the solution was allowed to warm to room temperature. The solvent was removed and the residue was partitioned between ethyl acetate and water. The ethyl acetate phase was concentrated and applied to a silica gel column. Elution with ethyl acetate:Skellysolve B (1:10) gave 6.9 g (88%) of product as a yellow oil.

reactant | Butyl lithium | 0.08 mol, 48 mL | C(CCC)[Li]
reactant | (R)-t-butyl 2-(2,2-dibromoethenyl)-1-pyrrolidinecarboxylate | 0.04 mol, 14.2 g | BrC(=C[C@@H]1N(CCC1)C(=O)OC(C)(C)C)Br | C11H17Br2NO2
reactant | methanol | 10 mL | CO | CH4O
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (R)-t-Butyl 2-ethynyl-1-pyrrolidinecarboxylate | 6.9 g, 88% | C(#C)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C11H17NO2
